US04122179
Apovincamine furoate
By repeating the preceding example, there are obtained 8.2 g of the salt from 6.73 g (2.10-2 moles) of apovincamine and 2.24 g (2.10-2 moles) of furan-2-carboxylic acid. The product has a melting point of about 120° C. is insoluble in water and soluble in alcohol; the apovincamine content thereof is 66%.

reactant | apovincamine | CC[C@@]12CCCN3[C@@H]1C4=C(C=5C=CC=CC5N4C(=C2)C(=O)OC)CC3 | C21H24N2O2
reactant | water | O | H2O
product | Apovincamine furoate | CC[C@@]12CCCN3[C@@H]1C4=C(C=5C=CC=CC5N4C(=C2)C(=O)OC)CC3.O1C(=CC=C1)C(=O)[O-] | InChI=1S/C21H24N2O2.C5H4O3/c1-3-21-10-6-11-22-12-9-15-14-7-4-5-8-16(14)23(18(15)19(21)22)17(13-21)20(24)25-2;6-5(7)4-2-1-3-8-4/h4-5,7-8,13,19H,3,6,9-12H2,1-2H3;1-3H,(H,6,7)/p-1/t19-,21+;/m1./s1
